US08058269B2
Preparation of rac-(2S)-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-3-phenyl-propionic acid
To an aqueous solution of NaOH (1N, 10 mL) at 0° C. was added L-2-amino-3-phenyl-propionic acid (1.47 g, 8.92 mmol), followed by the addition of solution of 3,6-dichloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (3 g, 8.1 mmol) in 1,4-dioxane (3 mL). After the reaction mixture was stirred at 0° C. for 4 h, the solution was concentrated and extracted with diethyl ether. The organic layer was dried over Na2SO4, filtered and concentrated.

reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | L-2-amino-3-phenyl-propionic acid | 8.92 mmol, 1.47 g | C1=CC=C(C=C1)C[C@@H](C(=O)O)N | C9H11NO2
reactant | 3,6-dichloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 8.1 mmol, 3 g | ClC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10Cl3NO
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | rac-(2S)-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-3-phenyl-propionic acid | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)NC(C(=O)O)CC1=CC=CC=C1 | C24H20Cl2N2O3
